US04963180
Allyl 2-isocyanatosulfonyloxy-3-methyl-benzoate
A solution of 3.7 g (0.026 mole) of chlorosulfonylisocyanate in 25 ml of absolute toluene are added dropwise to a solution of 4.8 g (0.025 mole) of allyl 3-methylsalicylate in 25 ml of absolute toluene, at 25° C. When the dropwise addition is complete, the temperature is increased slowly to 110° C., and the mixture is refluxed for 6 hours. The mixture is cooled and the solvent is removed on a rotary evaporator. The yellow oil remaining (7.5 g 100% of theory) is employed without further purification.

reactant | chlorosulfonylisocyanate | 0.026 mole, 3.7 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | allyl 3-methylsalicylate | 0.025 mole, 4.8 g | CC1=C(C(C(=O)OCC=C)=CC=C1)O | C11H12O3
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Allyl 2-isocyanatosulfonyloxy-3-methyl-benzoate | N(=C=O)S(=O)(=O)OC1=C(C(=O)OCC=C)C=CC=C1C | C12H11NO6S
